US06291475B1
7-[3-(4-Cyanophenoxy)-2(S)-hydroxypropyl]-3,7-diazabicyclo[3.3.1]-nonane-3-carboxylic acid cyclopropylmethyl ester
A cooled solution of cyclopropanemethanol (1.8 g; 25 mmol) in THF (7 mL) was added to a stirred 0C dispersion of CDI (4.05 g; 25 mmol) in THF (15 mL), and the reaction mixture was stirred for 30 minutes. A fraction of this solution (3.75 mL; 4.35 mmol) was added to a dispersion of 4-[3-(3,7-diazabicyclo[3.3.1]non-3-yl)-2(S)-hydroxypropoxy)benzonitrile (2.25 g; 6.0 mmol; dihydrochloride salt; prepared from 3,7-diazabicyclo[3.3.1]nonane-3-carboxylic acid and 7-[(2S)-3-(4-cyanophenoxy)-2-hydroxypropyl]-1,1-dimethylethyl ester, analogously to the method described in Example G above) and K2CO3 (2.0 g; 14.5 mmol) in THF (10 mL). The reaction mixture was heated (85° C.) in a sealed steel vessel for 24 hours, was then concentrated, and the residue partitioned between DCM and water. The organic layer was collected, dried, concentrated and subjected to column chromatography (DCM:MeOH; 95:5) to give the title compound in a 29% yield.

reactant | cyclopropanemethanol | 25 mmol, 1.8 g | C1(CC1)CO | C4H8O
reactant | CDI | 25 mmol, 4.05 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-[3-(3,7-diazabicyclo[3.3.1]non-3-yl)-2(S)-hydroxypropoxy)benzonitrile | C12CN(CC(CNC1)C2)C[C@@H](COC2=CC=C(C#N)C=C2)O | C17H23N3O2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 3,7-diazabicyclo[3.3.1]nonane-3-carboxylic acid | C12CN(CC(CNC1)C2)C(=O)O | C8H14N2O2
reactant | K2CO3 | 14.5 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-[3-(4-Cyanophenoxy)-2(S)-hydroxypropyl]-3,7-diazabicyclo[3.3.1]-nonane-3-carboxylic acid cyclopropylmethyl ester | 29% yield | C1(CC1)COC(=O)N1CC2CN(CC(C1)C2)C[C@@H](COC2=CC=C(C=C2)C#N)O | C22H29N3O4
